US07541372B2
{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-dimethyl-amine
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.57 mmol) was converted using dimethylamine hydrochloride (232 mg, 2.85 mmol) and N,N-diisopropylethylamine (294 mg, 2.28 mmol) instead of thiomorpholine to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 8 mg, 4%) which was obtained as a light brown solid. MS: m/e=377.3 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.57 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | dimethylamine hydrochloride | 2.85 mmol, 232 mg | Cl.CNC
reactant | N,N-diisopropylethylamine | 2.28 mmol, 294 mg | C(C)(C)N(C(C)C)CC | C8H19N
product | {3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-dimethyl-amine | 8 mg, 4% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N(C)C | C21H20N4O3
